US06559172B1
Preparation of (4R*,5R*)-4-(Toluene-4-sulfonyl)-5-(3-trifluoromethyl-phenyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, 3-(trifluoromethyl)benzaldehyde (0.16 g, 1.47 mmol), tosylmethylisocyanide (0.27 g, 1.40 mmol) and NaCN (6.9 mg, 0.14 mmol) gave the desired compound as a tan solid. 1H NMR (300 MHz, CDCl3) δ 2.44 (s, 3H), 4.98-5.04 (dd, 1H), 6.08-6.12 (dd, 1H), 7.3-7.42 (d, 2H), 7.50-7.62 (m, 5H), 7.78-7.86 (d, 2H).

reactant | 3-(trifluoromethyl)benzaldehyde | 1.47 mmol, 0.16 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | tosylmethylisocyanide | 1.40 mmol, 0.27 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.14 mmol, 6.9 mg | [C-]#N.[Na+]
product | (4R*,5R*)-4-(Toluene-4-sulfonyl)-5-(3-trifluoromethyl-phenyl)-4,5-dihydro-oxazole | C1(=CC=C(C=C1)S(=O)(=O)[C@H]1N=CO[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C | C17H14F3NO3S
